US07666868B2
1. (E)-N-Hydroxy-3-{1-[4-(1-methyl-1H-indol-5-yl)-benzenesulfonyl]-1H-pyrrol-3-yl}-acrylamide
A mixture of 0.346 g (E)-3-{1-[4-(1-methyl-1H-indol-5-yl)-benzenesulfonyl]-1H-pyrrol-3-yl}-N-(tetrahydro-pyran-2-yloxy)-acrylamide with 20 ml methanol and 13.9 ml 0.5M aqueous HCl is stirred at ambient temperature for 24 h. The crude product is isolated and in case of incomplete deprotection the resulted mixture is treated again with 1N aqueous HCl until the reaction is at completion. The crude product is isolated by evaporation and the title compound is isolated by prep-HPLC chromatography using an ammonium formiate gradient. By this method 0.047 g of the title compound are obtained.

reactant | (E)-3-{1-[4-(1-methyl-1H-indol-5-yl)-benzenesulfonyl]-1H-pyrrol-3-yl}-N-(tetrahydro-pyran-2-yloxy)-acrylamide | 0.346 g | CN1C=CC2=CC(=CC=C12)C1=CC=C(C=C1)S(=O)(=O)N1C=C(C=C1)/C=C/C(=O)NOC1OCCCC1 | C27H27N3O5S
reactant | HCl | 0.5M, 13.9 ml | Cl | ClH
reactant | HCl | 1N | Cl | ClH
solvent | methanol | 20 ml | CO | CH4O
product | (E)-N-Hydroxy-3-{1-[4-(1-methyl-1H-indol-5-yl)-benzenesulfonyl]-1H-pyrrol-3-yl}-acrylamide | ONC(\C=C\C1=CN(C=C1)S(=O)(=O)C1=CC=C(C=C1)C=1C=C2C=CN(C2=CC1)C)=O | C22H19N3O4S
